US06831080B2
Step B: 3-[(S)-1-Aminoethyl]phenol
To a solution of [(S)-1-(3-methoxyphenyl)ethyl]carbamic acid tert-butyl ester (3 g, 12 mmol) in dichloromethane (25 mL) at −78° C. was added BBr3 (1.0 M solution in dichloromethane) (26 mL, 26 mmol) dropwise. After the addition, the solution was warmed up to room temperature. The reaction mixture was quenched with methanol (100 mL) and concentrated under vacuum. This process was repeated until no white fumes were observed upon adding methanol. The title compound was obtained as pale yellow solid (2.6 g, quantitative yield). The crude product was used without any further purification

reactant | [(S)-1-(3-methoxyphenyl)ethyl]carbamic acid tert-butyl ester | 12 mmol, 3 g | C(C)(C)(C)OC(N[C@@H](C)C1=CC(=CC=C1)OC)=O | C14H21NO3
reactant | BBr3 | 26 mmol, 1.0 M, 26 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 3-[(S)-1-Aminoethyl]phenol | N[C@@H](C)C=1C=C(C=CC1)O | C8H11NO
